US05180824
A solution of sodium azide (14.08 g, 0.216 mol) in water (35 mL) was added to a solution of 2-amino-6-chloropurine (28.27 g, 0.166 mol) in dimethyl sulfoxide (DMSO, 280 mL). The mixture was heated at 100°-110° C. for 24 h, then the resulting suspension was cooled and poured into 1.3 L of water. The precipitate was collected by filtration, washed with water and dried to afford 26.11 g of 2-amino-6-azidopurine, mp>260° C.; IR (KBr) 3313, 3146, 1678, 1641, 1551 cm-1 ; 1H NMR (DMSO-d6, 360 MHz) δ8.18 (s, 1H), 8.25 (bs, 2H), 13 (vbs, 1H); 13C NMR (DMSO-d6, 90 MHz), 110.8, 138.7, 143.4, 145.7 , 146.1 ppm.

reactant | sodium azide | 0.216 mol, 14.08 g | [N-]=[N+]=[N-].[Na+]
reactant | 2-amino-6-chloropurine | 0.166 mol, 28.27 g | NC1=NC(=C2NC=NC2=N1)Cl | C5H4ClN5
solvent | water | 35 mL | O | H2O
solvent | dimethyl sulfoxide | 280 mL | CS(=O)C | C2H6OS
solvent | water | 1.3 L | O | H2O
product | 2-amino-6-azidopurine | 26.11 g | NC1=NC(=C2NC=NC2=N1)N=[N+]=[N-] | C5H4N8
